US09315507B2
3-(4-(Adamantan-1-yl)-2-methylphenoxy)-1-(4-methylpiperazin-1-yl)propan-1-one (I-11)
The title compound was prepared from 3-(4-(adamantan-1-yl)-2-methylphenoxy)propanoic acid (0.2 g, 0.63 mmol) and 1-methylpiperazine (0.063 g, 0.63 mmol) according to the example 1, which was given 3-(4-(adamantan-1-yl)-2-methylphenoxy)-1-(4-methylpiperazin-1-yl)propan-1-one as a white solid (0.236 g, 93.6% yield).

reactant | 3-(4-(adamantan-1-yl)-2-methylphenoxy)propanoic acid | 0.63 mmol, 0.2 g | C12(CC3CC(CC(C1)C3)C2)C2=CC(=C(OCCC(=O)O)C=C2)C | C20H26O3
reactant | 1-methylpiperazine | 0.63 mmol, 0.063 g | CN1CCNCC1 | C5H12N2
product | 3-(4-(adamantan-1-yl)-2-methylphenoxy)-1-(4-methylpiperazin-1-yl)propan-1-one | 0.236 g, 93.6% yield | C12(CC3CC(CC(C1)C3)C2)C2=CC(=C(OCCC(=O)N3CCN(CC3)C)C=C2)C | C25H36N2O2
